* Class D audio amp frontend (to drive a power MOS half bridge)
* analog input
* pwm clock generator
* digital one-shot
* non-overlapping clock
* two floating half-bridge drivers

* Calling the subcircuit model
* Xpwm ain lo+ lo- hi+ hi- DAudioDriver freq = 500k dtime = 100n voutp = 1.4 voutn = 0

* PWM idea with one-shot from 
* https://www.thequantizer.com/tutorials/dac-and-pwm-kicad-simulation/
.subckt pwm_source  cntl_in dout params: freq=1.1Meg
*****************************************************************
* freq = frequency of internal oscillator
*****************************************************************
ain clk cntl_in 0 out pulse2
*****************************************************************
* create output by sampeling the control signal every positive
* edge of the clk and firing a square with a width determined by the 
* the controlling input voltage: 
* vin <= 0.01 then width = 0.01/freq (duty cycle 0.01); 
* 0.01 < vin < 0.99 then width = vin/freq (duty cycle = vin)
* vi >= 0.99 width = 0.99/freq (duty cycle 0.99)
*****************************************************************
.model pulse2 oneshot(cntl_array = [-2 -1.99 1.99 2]
+                     pw_array=[{0.01/freq} {0.01/freq} {0.99/freq} {0.99/freq}]
+                     clk_trig = 0.5 pos_edge_trig = TRUE
+                     out_low = 0 out_high = 1
+                     rise_delay = 2.0e-9 fall_delay = 2.0e-9)
*****************************************************************
* create clock signal
*****************************************************************
Vclk clk gnd dc 0 pulse(0 1 10n 10n 10n {1/(freq*2)} {1/freq})
*****************************************************************
* digital output
abridge2 [out] [dout] adc_buff
.model adc_buff adc_bridge(in_low = 0.5 in_high = 0.5)
.ends


.subckt DAudioDriver ain lo+ lo- hi+ hi- params: freq = 317k dtime = 50n voutp = 12 voutn = 0
* the intrinsic pwm
*apwm1 ain dfast1 pwm_osc
*.model pwm_osc d_pwm(cntl_array = [-2 -1.99 1.99 2]
*+ dc_array = [0.1 0.1 0.9 0.9]
*+ frequency = {freq} init_phase = 90.0

* the one-shot PWM
Xpwm ain dfast1 pwm_source freq={freq}

a6 dfast1 _d1 inv1
.model inv1 d_inverter(rise_delay = 0.3e-9 fall_delay = 0.3e-9
+ input_load = 0.5e-12)

* equalize d1 and _d1
abuf2 dfast1 d1 buff2
.model buff2 d_buffer(rise_delay = 0.3e-9 fall_delay = 0.3e-9
+ input_load = 0.5e-12)

*** one-shot ***
* buffer
abuf1 dfast1 d2 buff1
.model buff1 d_buffer(rise_delay = {dtime} fall_delay = {dtime}
+ input_load = 0.5e-12)
* one-shot 1->0 output
a9 [dfast1 d2] dos xnor3
.model xnor3 d_xnor(rise_delay = 0.2e-9 fall_delay = 0.2e-9
+ input_load = 0.5e-12)
***

* outputs: non-inverted and inverted, non-overlapping
aand1 [d1 dos] dout1 and1
aand2 [_d1 dos] dout2 and1
.model and1 d_and(rise_delay = 0.4e-9 fall_delay = 0.4e-9
+ input_load = 0.5e-12)

* analog out, differential
abridge1 [dout1] [%vd(lo+ lo-)] dac1
abridge2 [dout2] [%vd(hi+ hi-)] dac1
.model dac1 dac_bridge(out_low = {voutn} out_high = {voutp} out_undef = 0
+ input_load = 5.0e-12 t_rise = 20e-9
+ t_fall = 20e-9)

* test
* do we have overlap?
* aandtest [dout1 dout2] dtest and1

.ends
